US06867299B2
A mixture of 30 mg (0.074 mmol) of N-[2-(4-aminophenyl)-1,1-dimethylethyl]-N′-[3-methoxy-4-(5-oxazolyl)phenyl]oxalamide, 8 mg (0.078 mmol) of acetic anhydride and 17 mg (0.15 mmol) of N-ethylmorpholine in 1 ml of dichloromethane was stirred at room temperature for 2 hours. The solvent was removed by evaporation and the residue triturated with diethyl ether and collected by filtration to give 14 mg of N-[2-(4-acetamidophenyl)-1,1-dimethylethyl]-N′-[3-methoxy-4-(5-oxazolyl)phenyl]oxalamide as a white solid. MS: m/e 451 [M+H]+.

reactant | N-[2-(4-aminophenyl)-1,1-dimethylethyl]-N′-[3-methoxy-4-(5-oxazolyl)phenyl]oxalamide | 0.074 mmol, 30 mg | NC1=CC=C(C=C1)CC(C)(C)NC(C(=O)NC1=CC(=C(C=C1)C1=CN=CO1)OC)=O | C22H24N4O4
reactant | acetic anhydride | 0.078 mmol, 8 mg | C(C)(=O)OC(C)=O | C4H6O3
reactant | N-ethylmorpholine | 0.15 mmol, 17 mg | C(C)N1CCOCC1 | C6H13NO
solvent | dichloromethane | 1 ml | ClCCl | CH2Cl2
product | N-[2-(4-acetamidophenyl)-1,1-dimethylethyl]-N′-[3-methoxy-4-(5-oxazolyl)phenyl]oxalamide | 14 mg | C(C)(=O)NC1=CC=C(C=C1)CC(C)(C)NC(C(=O)NC1=CC(=C(C=C1)C1=CN=CO1)OC)=O | C24H26N4O5
